US07429684B2
Synthesis of 2,6-bis(phenylimino) pyridine
2,6-pyridine dicarboxaldehyde (0.3071 g, 2.3 mmol) was added to a solution of aniline (0.5292 g, 5.7 mmol) in absolute ethanol (20 mL) at room temperature. 0.5 mL of formic acid was then added to the above solution. The mixture was stirred at room temperature for 65 hours. The product was filtered, washed with cold ethanol and dried in a vacuum oven (50° C.) overnight. Yield 0.2245 g (34.2%).

reactant | 2,6-pyridine dicarboxaldehyde | 2.3 mmol, 0.3071 g | N1=C(C=CC=C1C=O)C=O | C7H5NO2
reactant | aniline | 5.7 mmol, 0.5292 g | NC1=CC=CC=C1 | C6H7N
reactant | formic acid | 0.5 mL | C(=O)O | CH2O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2,6-bis(phenylimino) pyridine | C1(=CC=CC=C1)N=C1NC(C=CC1)=NC1=CC=CC=C1 | C17H15N3
